### PR TITLE
[Merged by Bors] - feat: `a / b < 0 → 0 ≤ a → b < 0`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

Requested by @bjoernkjoshanssen

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 1]
```diff
@@ -1489,19 +1489,35 @@ end MulPosStrictMono
...
+lemma div_nonpos_of_nonneg_of_nonpos (ha : 0 ≤ a) (hb : b ≤ 0) : a / b ≤ 0 := by
   rw [div_eq_mul_inv]; exact mul_nonpos_of_nonneg_of_nonpos ha (inv_nonpos.2 hb)
 
+lemma neg_of_div_neg_right (h : a / b < 0) (ha : 0 ≤ a) : b < 0 :=
+  have := PosMulMono.toPosMulReflectLT (α := G₀)
+  lt_of_not_ge fun hb ↦ (div_nonneg ha hb).not_lt h
+
+lemma neg_of_div_neg_left (h : a / b < 0) (hb : 0 ≤ b) : a < 0 :=
+  have := PosMulMono.toPosMulReflectLT (α := G₀)
+  lt_of_not_ge fun ha ↦ (div_nonneg ha hb).not_lt h
```
Comment (jcommelin) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1517]: Does it make sense to make these into `iff` statements that take the `0 ≤` as parameter?

Comment (YaelDillies) [reply Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1517]: The converse doesn't hold if `b = 0`
